US05502046
100 g of 11-bromoundecanol (Fluka) is dissolved in 240 ml of tetrahydrofuran and mixed at 25° C. with 58 g of imidazole as well as 74.3 g of tert-butyldimethylsilyl chloride in 80 ml of tetrahydrofuran and stirred for 2 hours at 25° C. For working up, 700 ml of diethyl ether is added, the precipitated hydrochloride is filtered off, evaporated to dryness in a vacuum and chromatographed on silica gel with hexane/toluene. 136.9 g of 11-bromoundecyl-tert-butyldimethylsilyl ether is obtained as oil.

reactant | 11-bromoundecanol | 100 g | BrCCCCCCCCCCCO | C11H23BrO
reactant | imidazole | 58 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 74.3 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | diethyl ether | 700 ml | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 240 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 11-bromoundecyl-tert-butyldimethylsilyl ether | 136.9 g | BrCCCCCCCCCCCO[Si](C)(C)C(C)(C)C | C17H37BrOSi
